US05852008
Preparation of 1-(1,4-benzodioxan-5-ylcarbonyl)-3-pyrroline (VIII)
1,4-Benzodioxan-6-carboxaldehyde is oxidized to the corresponding acid by the procedure of Shriner and Kleiderer in Organic Syntheses, Coll. Vol. 2:538 (1943). Coupling of the acid with 3-pyrroline is conducted by employing the same method as employed for the preparation of Invention Compound V, which uses carbonyl diimidazole in order to activate the carboxylic acid, or any other method known in the art, such as, for example, activation by the reaction of the triethylammonium salt with trimethylacetyl chloride. The product is crystallized from CCl4 /Et2O/hexanes. EMIS m/z=231 (parent), 163 (base), 135, and 107. 1H NMR δ 4.25-4.30 (m, 6), 4.43 (br, 2), 5.75 (m, 1), 5.85 (m, 1), 6.88 (d, 1, J=8.42 Hz), 7.06 (dd, 1, J=8.38, 2.03 Hz), and 7.09 (d, 1, J=2.05 Hz).

reactant | 1,4-Benzodioxan-6-carboxaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 3-pyrroline | N1CC=CC1 | C4H7N
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | triethylammonium | C(C)[NH+](CC)CC
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
product | 1-(1,4-benzodioxan-5-ylcarbonyl)-3-pyrroline | O1CCOC2=C1C=CC=C2C(=O)N2CC=CC2 | C13H13NO3
